US08461328B2
A mixture of (4-methyl-pyridin-3-yl)-carbamic acid methyl ester (10.0 g, 60.2 mmol) and Rh/alumina (5.00 g, 5 mol %)) in ethanol (250 mL) was heated at 70° C. under hydrogen at 4 bar 3.5 days. The cooled reaction mixture was filtered through Celite® and the filtrate concentrated under vacuum. The resulting residue was dissolved in DCM (250 mL) and treated with BOC anhydride (14.5 g, 66.2 mmol) and diisopropylethylamine (15.5 mL, 90.3 mmol) and stirred at ambient temperature for 18 hours. The reaction mixture was diluted with DCM and washed with 1M aqueous HCl, water and brine, then dried over sodium sulfate and concentrated under vacuum. The resulting residue was purified by column chromatography on silica gel (gradient: 0 to 50% ethyl acetate in cyclohexane) to afford 3.43 g (20%) of racemic cis 3-methoxycarbonylamino-4-methyl-piperidine-1-carboxylic acid tert-butyl ester. LCMS (Method B, ESI): RT=4.02 min, m+H=287; 1H NMR (300 MHz, CDCl3) δ: 4.75 (s, 1H), 4.17-4.01 (m, 2H), 3.83-3.73 (m, 1H), 3.68 (s, 3H), 2.86 (dd, 1H), 2.76-2.65 (m, 1H), 1.86-1.71 (m, 2H), 1.44 (s, 9H), 1.25 (d, 1H), 0.93 (d, 3H).

reactant | (4-methyl-pyridin-3-yl)-carbamic acid methyl ester | 60.2 mmol, 10.0 g | COC(NC=1C=NC=CC1C)=O | C8H10N2O2
reactant | BOC anhydride | 66.2 mmol, 14.5 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethylamine | 90.3 mmol, 15.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | racemic cis 3-methoxycarbonylamino-4-methyl-piperidine-1-carboxylic acid tert-butyl ester | 3.43 g, 20% | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)C)NC(=O)OC | C13H24N2O4
